US07696200B2
Borane-tetrahydrofuran complex solution (1 M in tetrahydrofuran, 45 mL, 45 mmol) was added at 0° C. to a suspension of methyl-3-oxo-3,4-dihydro-2H-1,4-benzothiazine-6-carboxylate (2.00 g, 8.96 mmol) in tetrahydrofuran (20 mL). The ice bath was removed, the homogenous solution stirred at room temperature for 2 h, then excess reagent was destroyed by careful addition of methanol (42 mL) at 0° C. After evaporation of volatile material, the residue was taken up in 5% methanolic sulfuric acid solution (25 mL) and the solution was heated at reflux over 80 min. After cooling, the reaction mixture was partitioned between ethyl acetate and water, the organic layer was dried (MgSO4) and evaporated to produce 3,4-dihydro-2H-benzo[1,4]thiazine-6-carboxylic acid methyl ester (1.79 g, 96%). Light yellow solid, MS (ISP)=210.1 (M+H)+.

reactant | methyl-3-oxo-3,4-dihydro-2H-1,4-benzothiazine-6-carboxylate | 8.96 mmol, 2.00 g | COC(=O)C=1C=CC2=C(NC(CS2)=O)C1 | C10H9NO3S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 3,4-dihydro-2H-benzo[1,4]thiazine-6-carboxylic acid methyl ester | 1.79 g, 96% | COC(=O)C=1C=CC2=C(NCCS2)C1 | C10H11NO2S
